US05891910
(4Z,13E)-(9R,11R,15R)-9-fluoro-11,15-dihydroxy-16,16-dimethyl-4,13-prostadienoic acid methyl ester
0.56 ml of diethylaminosulfur trifluoride (DAST) is instilled in a solution of 2.05 g of (4Z,13E)-(9S,11R,15R)-9-hydroxy-16,16-diethyl-11,15-bis-(tetrahydropyran-2-yloxy)-4,13-prostadienoic acid methyl ester in 43 ml of methylene chloride and 1.1 ml of pyridine at -70° C. and stirred for 3.5 hours at -70° C. Then it is added to 200 ml of 5% sodium bicarbonate solution cooled to 0° C. and allowed to stir vigorously for 10 minutes. Then it is extracted several times with methylene chloride, the extract is washed with water, dried over MgSO4 and concentrated by evaporation in a vacuum. The residue is stirred for 24 hours at 20° C. with 60 ml of a mixture of acetic acid/water/tetrahydrofuran (65/35/10), concentrated by evaporation in a vacuum after addition of toluene and the raw product is purified by chromatography on silica gel with toluene/0-10% isopropanol. 306 mg of the title compound is obtained as oil.

reactant | diethylaminosulfur trifluoride | 0.56 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | (4Z,13E)-(9S,11R,15R)-9-hydroxy-16,16-diethyl-11,15-bis-(tetrahydropyran-2-yloxy)-4,13-prostadienoic acid methyl ester | 2.05 g | COC(CC\C=C/CC[C@H]1[C@H](C[C@H]([C@@H]1\C=C\[C@H](C(CCCC)(CC)CC)OC1OCCCC1)OC1OCCCC1)O)=O | C35H60O7
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 43 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1.1 ml | N1=CC=CC=C1 | C5H5N
product | (4Z,13E)-(9R,11R,15R)-9-fluoro-11,15-dihydroxy-16,16-dimethyl-4,13-prostadienoic acid methyl ester | 306 mg | COC(CC\C=C/CC[C@H]1[C@@H](C[C@H]([C@@H]1\C=C\[C@H](C(CCCC)(C)C)O)O)F)=O | C23H39FO4
